US06756378B2
A mixture of dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]isophthalate (2.01 g, 5.11 mmol), TFA (20 mL), and CH2Cl2 (25 mL) was stirred for 1.5 hr at room temp. The resulting mixture was concentrated in vacuo and made basic with sat. NaHCO3. The mixture was extracted with CH2Cl2, washed with brine, dried over Na2CO3, and evaporated. The residue was purified by column chromatography on silica-gel with CHCl3—MeOH (9:1, v/v) as eluent to give 0.80 g (53%) dimethyl (S)4-(2-pyrrolidinylmethoxy)isophthalate as a yellow oil. 1H-NMR (CDCl3) δ1.71 (m, 1 H), 1.89 (m, 2 H), 2.00 (m, 1 H), 3.05-3.13 (m, 2 H), 3.67 (m, 1 H), 3.90 (s, 3 H), 3.91 (s, 3 H), 4.05-4.18 (m, 2H), 7.00 (d, 1 H, J=8.8 Hz), 8.14 (dd, 1 H, J=2.4, 8.8 Hz), 8.50 (d, 1 H, J=2.4 Hz).

reactant | dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]isophthalate | 5.11 mmol, 2.01 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C20H27NO7
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | dimethyl (S)4-(2-pyrrolidinylmethoxy)isophthalate | 0.80 g, 53% | N1[C@@H](CCC1)COC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C15H19NO5
